US03959322
dl-13-Ethyl-17β-hydroxy-17-(1-hydroxyethyl)gon-4-en-3-one
Hydrolyze dl-13-ethyl-17β-hydroxy-17-(1-hydroxyethyl)-3-methoxygona-2,5(10)-diene (0.70 g) in hydrochloric acid-methanol-water. Recrystallize from ethyl acetate to obtain the title compound (0.36 g), m.p. 159°-164°; ultraviolet absorption peak at 240 mμ (ε15,230), infrared absorption peaks at 3.0 μ (strong), 6.05 μ.

reactant | 13-ethyl-17β-hydroxy-17-(1-hydroxyethyl)-3-methoxygona-2,5(10)-diene | 0.70 g | C(C)[C@]12[C@@](CC[C@H]2[C@H]2[C@H](CC1)C=1CC=C(CC1CC2)OC)(C(C)O)O | C22H34O3
solvent | hydrochloric acid methanol water | Cl.CO.O
product | 13-Ethyl-17β-hydroxy-17-(1-hydroxyethyl)gon-4-en-3-one | 0.36 g | C(C)[C@]12[C@@](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2)=O)(C(C)O)O | C21H32O3
